US06884868B1
To a solution of 1-methyl-4-piperidone (1.0 g) in dichloromethane (5 ml) was slowly added iodomethane (1 ml) at 0° C. and stirred for 30 minutes at ambient temperature. To the reaction mixture was added isopropyl ether (10 ml), and the resulting precipitate was collected by filtration to give 1,1-dimethyl-4-oxopiperidinium iodide (1.416 g).

reactant | 1-methyl-4-piperidone | 1.0 g | CN1CCC(CC1)=O | C6H11NO
reactant | iodomethane | 1 ml | IC | CH3I
reactant | isopropyl ether | 10 ml | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1,1-dimethyl-4-oxopiperidinium iodide | 1.416 g | [I-].C[N+]1(CCC(CC1)=O)C | InChI=1S/C7H14NO.HI/c1-8(2)5-3-7(9)4-6-8;/h3-6H2,1-2H3;1H/q+1;/p-1
